US05672599
a) [S-(R*,R*)]-2-[[2-Phthalimido-4-(acetylthio)-1-oxobutyl]amino]-5,5-dimethoxypentanoic acid, methyl ester
A 0° C. solution of triphenylphosphine (1.26 g., 4.79 mmol., 1.5 eq.) in dry tetrahydrofuran (15 ml.) was treated with diisopropyl azodicarboxylate (943 μl., 4.79 mmol.). The resultant white slurry was stirred for 30 minutes and then treated with a solution of [S-(R*,R*)]-2-[(2-phthalimido-4-hydroxy-1-oxobutyl)amino]-5,5-dimethoxypentanoic acid, methyl ester [prepared as described in Example 4(i), 1,35 g., 3.20 mmol.]in dry tetrahydrofuran (15 ml.) followed by neat thiolacetic acid (343 μl., 4.79 mmol.). The mixture was stirred at 0° C. for 1.5 hours and then partitioned between ethyl acetate (150 ml.) and 50% sodium bicarbonate (100 ml.). The ethyl acetate layer was washed with brine, dried over magnesium sulfate, filtered, concentrated, adsorbed onto Celite® and dried in vacuo. The crude material was purified by chromatography on a 2.5×15 cm silica gel column eluting with 1:1 ethyl acetate:hexane (11.) and 6:4 ethyl acetate:hexane (11.). The desired fractions were combined, concentrated and dried in vacuo affording 1.35 g. of title produce as an oil. TLC (8:2, ethyl acetate:hexane) Rf =0.42.

reactant | triphenylphosphine | 4.79 mmol, 1.26 g, 1.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.79 mmol, 943 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-[(2-phthalimido-4-hydroxy-1-oxobutyl)amino]-5,5-dimethoxypentanoic acid, methyl ester | C1(C=2C(C(N1C(C(=O)NC(C(=O)OC)CCC(OC)OC)CCO)=O)=CC=CC2)=O | C20H26N2O8
reactant | thiolacetic acid | 4.79 mmol, 343 μl | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[[2-Phthalimido-4-(acetylthio)-1-oxobutyl]amino]-5,5-dimethoxypentanoic acid, methyl ester | C1(C=2C(C(N1C(C(=O)NC(C(=O)OC)CCC(OC)OC)CCSC(C)=O)=O)=CC=CC2)=O | C22H28N2O8S
